US07629358B2
N-[2-(4-Fluorophenyl)ethyl]-3-[2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]benzamide
Solutions of 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxy methylphenyl)ethylamino]-2-methylpropyl}benzoic acid (preparation 37) (90 mg, 0.19 mmol) in N,N-dimethylacetamide (1 mL) and O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (61 mg, 0.16 mmol) in N,N-dimethylacetamide (0.5 mL) were added to a solution of 4-fluorophenethylamine (33 mg, 0.19 mmol) in N,N-dimethylacetamide (0.5 mL). The resulting mixture was stirred for 72 hours at room temperature. The solvent was removed in vacuo and the residue was partitioned between dichloromethane (4 mL) and saturated sodium hydrogen carbonate solution (1 mL). The mixture was then filtered through a phase separation tube and the organic solution was concentrated in vacuo. Ammonium fluoride (70 mg, 1.9 mmol) was added to a suspension of the residue in methanol (2 mL) and water (1 mL) and the mixture was stirred at room temperature for 72 hours. The reaction mixture was then concentrated in vacuo and the residue was purified by column chromatography on silica gel, eluting with dichloromethane:methanol:0.88 ammonia, 100:0:0 to 91:9:1, followed by trituration with diethyl ether, to afford the title compound in 50% yield, 45 mg. 1H NMR (400 MHz, CD3OD) δ: 7.63 (2H, m), 7.40-7.30 (3H, m), 7.23 (2H, m), 7.14 (1H, m), 7.00 (2H, m), 6.75 (1H, d), 4.65 (3H, m), 3.58 (2H, m), 2.98-2.64 (6H, m), 1.11 (3H, s), 1.05 (3H, s) ppm; LRMS APCI m/z 481 [M+H]+.

reactant | 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxy methylphenyl)ethylamino]-2-methylpropyl}benzoic acid | 0.19 mmol, 90 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C(=O)O)C=CC1)(C)C)C1=CC(=C(C=C1)O)CO | C26H39NO5Si
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.16 mmol, 61 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-fluorophenethylamine | 0.19 mmol, 33 mg | FC1=CC=C(CCN)C=C1 | C8H10FN
reactant | Ammonium fluoride | 1.9 mmol, 70 mg | [F-].[NH4+]
solvent | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 0.5 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 0.5 mL | CN(C(C)=O)C | C4H9NO
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | N-[2-(4-Fluorophenyl)ethyl]-3-[2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]benzamide | 50% yield | FC1=CC=C(C=C1)CCNC(C1=CC(=CC=C1)CC(C)(C)NC[C@@H](C1=CC(=C(C=C1)O)CO)O)=O | C28H33FN2O4
